US07601714B2
To a solution of 2-cyclohexen-1-one (6 mL, 62 mmol) in hexanes (100 mL) was added 1M Et2AlCN (160 mL) in toluene with cooling at −15° C. After stirring for 30 min, the reaction mixture was poured into an ice-cold 2M HCl solution and extracted with CH2Cl2. The extracts were washed with cold 2M NaOH and water, dried and concentrated in vacuo. Distillation of the product yielded 1.7 g (22%) of 3-oxo-cyclohexanecarbonitrile, b.p. 145-146° C. (16 mmHg).

reactant | 2-cyclohexen-1-one | 62 mmol, 6 mL | C1(C=CCCC1)=O | C6H8O
reactant | Et2AlCN | 1M, 160 mL | [Al](CC)(CC)C#N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-oxo-cyclohexanecarbonitrile | 1.7 g, 22% | O=C1CC(CCC1)C#N | C7H9NO
